US06150373
A mixture of 1.1 g (1.5 mmol) of 1-[3-(2-(tert-butyldiphenylsilyloxy)ethyl)phenyl]-3-(2-chloro-6-methylphenyl)-3,4-dihydro-7-methanesulfonyl-pyrimido[4,5-d]pyrimidin-2(1H)-one and 3 ml of aniline was heated at 180° C. for 20 minutes. The mixture was cooled and added to 50 ml of 2M aqueous hydrochloric acid. The resulting suspension was filtered and the solid washed with water and dried to give 1.2 g (100%) of 1-[3-(2-(tert-butyldiphenylsilyloxy)ethyl)phenyl]-7-anilino-3-(2-chloro-6-methylphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a tan solid. [Mass spectrum (ESI) MH+ =724].

reactant | 1-[3-(2-(tert-butyldiphenylsilyloxy)ethyl)phenyl]-3-(2-chloro-6-methylphenyl)-3,4-dihydro-7-methanesulfonyl-pyrimido[4,5-d]pyrimidin-2(1H)-one | 1.5 mmol, 1.1 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)S(=O)(=O)C)C2=C(C=CC=C2C)Cl)=O | C38H39ClN4O4SSi
reactant | aniline | 3 ml | NC1=CC=CC=C1 | C6H7N
solvent | hydrochloric acid | 2M, 50 ml | Cl | ClH
product | 1-[3-(2-(tert-butyldiphenylsilyloxy)ethyl)phenyl]-7-anilino-3-(2-chloro-6-methylphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.2 g, 100% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=C(C=CC=C2C)Cl)=O | C43H42ClN5O2Si
